US06498165B1
2-[(S)-1-Phenylethylamino]-4-[6-(4-cyanophenyl)benzimidazol-1-yl]pyrimidine
The title compound was prepared according to the procedure described in EXAMPLE 416, starting from 2-[(S)-1-Phenylethylamino]-4-[6-iodobenzimidazol-1-yl]pyrimidine and 4-cyanophenylboronic acid. Mass spectrum (ESI) 417.3 (M+1).

reactant | 2-[(S)-1-Phenylethylamino]-4-[6-iodobenzimidazol-1-yl]pyrimidine | C1(=CC=CC=C1)[C@H](C)NC1=NC=CC(=N1)N1C=NC2=C1C=C(C=C2)I | C19H16IN5
reactant | 4-cyanophenylboronic acid | C(#N)C1=CC=C(C=C1)B(O)O | C7H6BNO2
product | 2-[(S)-1-Phenylethylamino]-4-[6-(4-cyanophenyl)benzimidazol-1-yl]pyrimidine | C1(=CC=CC=C1)[C@H](C)NC1=NC=CC(=N1)N1C=NC2=C1C=C(C=C2)C2=CC=C(C=C2)C#N | C26H20N6
